US07598397B2
Synthesis of 1-Methyl-4-(naphthalen-2-yloxy)-1H-indazol-3-ylamine, I-190.
To a 20 mL vial containing 2-fluoro-6-(naphthalen-2-yloxy)-benzonitrile (966 mg, 3.67 mmol) and a magnetic stir bar was added anhydrous N,N-dimethylacetamide and the mixture was stirred until solution was achieved. Methyl hydrazine (390 uL, 7.34 mmol) was added, the vial was capped, the reaction mixture was placed in an oil bath at 120° C. and stirred at that temperature overnight. The reaction mixture was heated at 130° C. for an additional 3 h. The cooled reaction mixture was diluted with water (20 mL) and extracted with EtOAc (2×30 mL). The combined organics were washed with water (3×15 mL), dried (Na2SO4), filtered and concentrated to give 1.03 g of a tan solid. This residue was purified via flash chromatography on silica gel (120 g) utilizing CH2Cl2 and then 9:1 CH2Cl2/EtOAc as eluent to give 770 mg of I-190 an off-white solid. This material was deemed of sufficient purity to be utilized in subsequent reactions. 1H NMR, MS.

reactant | 2-fluoro-6-(naphthalen-2-yloxy)-benzonitrile | 3.67 mmol, 966 mg | FC1=C(C#N)C(=CC=C1)OC1=CC2=CC=CC=C2C=C1 | C17H10FNO
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
reactant | Methyl hydrazine | 7.34 mmol, 390 uL | CNN | CH6N2
solvent | water | 20 mL | O | H2O
product | 1-Methyl-4-(naphthalen-2-yloxy)-1H-indazol-3-ylamine | 1.03 g | CN1N=C(C2=C(C=CC=C12)OC1=CC2=CC=CC=C2C=C1)N | C18H15N3O
